US06881737B2
Based on B. S. Rauckman et al., J. Med. Chem., 1989, 32, 1927-1935, 5-chloroquinoline (1.01 g, 6.2 mmol) was dissolved into anh. EtOH (30 mL) under N2 at RT. Concentrated HCl (2.14 mL, 24.8 mmol) was added, followed by the addition of the NaCNBH3 (1.56 g, 24.8 mmol). This produced a vigorous gas and heat evolution. The reaction was heated to 60° C. for 2 h, then cooled and stirred at RT for an additional 18 h. The reaction was quenched by adjusting the pH to approximately 9 with 2 N NaOH. This mixture was extracted 3 times with EtOAc. The EtOAc extracts were washed brine, combined, dried over Na2SO4, filtered, and concentrated, then eluted through a 17×2.5 cm column of silica gel (5%, 10%, 15%, 40% and 50% EtOAc/Hexane step gradient) giving 5-chloro-1,2,3,4-tetrahydroquinoline as a green oil: MS m/z 168=[M+H]+. Calc'd for C9H10NCl—167.05.

reactant | 5-chloroquinoline | 6.2 mmol, 1.01 g | ClC1=C2C=CC=NC2=CC=C1 | C9H6ClN
reactant | HCl | 24.8 mmol, 2.14 mL | Cl | ClH
reactant | NaCNBH3 | 24.8 mmol, 1.56 g | [BH3-]C#N.[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-chloro-1,2,3,4-tetrahydroquinoline | ClC1=C2CCCNC2=CC=C1 | C9H10ClN
